US05434145
Dissolve N-butyl-4-methyl-benzenesulfonamide (10 mmol) in tetrahydrofuran (50 mL) and add triphenylphosphine (10 mmol). Treat this with ethylene glycol (10 mmol) followed by addition of diethyl azodicarboxylate (10 mmol). Stir the reaction at 25° C. for 18 hours. Concentrate the reaction under vacuum. Purify the residue by flash chromatography (silica gel, toluene/ethyl acetate) to provide N-butyl-N-(2-hydroxy-ethyl)-4-methyl-benzenesulfonamide.

reactant | N-butyl-4-methyl-benzenesulfonamide | 10 mmol | C(CCC)NS(=O)(=O)C1=CC=C(C=C1)C | C11H17NO2S
reactant | triphenylphosphine | 10 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethylene glycol | 10 mmol | C(CO)O | C2H6O2
reactant | diethyl azodicarboxylate | 10 mmol | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | N-butyl-N-(2-hydroxy-ethyl)-4-methyl-benzenesulfonamide | C(CCC)N(S(=O)(=O)C1=CC=C(C=C1)C)CCO | C13H21NO3S
